US20010007873A1
F. 4-(6-Amino-pyridin-yl)-3-cyclopropyl-phenol
Prepared as in Example 1G using heating 3-cyclopropyl-4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol with NH2OH&Circlesolid;HCl in aqueous EtOH, in 67% yield.

reactant | 3-cyclopropyl-4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-2-yl]-phenol | C1(CC1)C=1C=C(C=CC1C1=NC(=CC=C1)N1C(=CC=C1C)C)O | C20H20N2O
reactant | NH2OH | NO | H3NO
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | 4-(6-Amino-pyridin-yl)-3-cyclopropyl-phenol | 67% yield | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CC1 | C14H14N2O
